US06455528B1
(2) 4-Bromomethyl-3-nitrobenzonitrile
A solution of 4-methyl-3-nitrobenzonitrile (30 g), N-bromosuccinimide (37 g) and azobisisobutyronitrile (3.1 g) in carbon tetrachloride (300 ml) was refluxed under heating for 8 hr. To the reaction mixture was added water (100 ml) and the mixture was extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (developing solvent; ethyl acetate:hexane=1:4) and recrystallized from ethyl acetate-hexane to give the title compound (23.7 g) as pale-yellow crystals, m.p.=85-89° C.

reactant | 4-methyl-3-nitrobenzonitrile | 30 g | CC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C8H6N2O2
reactant | N-bromosuccinimide | 37 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 3.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | water | 100 ml | O | H2O
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-3-nitrobenzonitrile | 23.7 g | BrCC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C8H5BrN2O2
